datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C1CCN(C2CC[NH+:21]([H:20])CC2)CC1.CC(O)C[NH:10]CCN>>C1CCN(C2CC[NH:21]CC2)CC1.CC(O)C[NH+:10](CCN)[H:20] 10=20;20,21=21",
"CC(CC(c1ccccc1)c1ccccc1)[N+:21]1([H:20])CCOCC1.C[C@H]1C[NH:10][C@@H](C)CN1>>CC(CC(c1ccccc1)c1ccccc1)[N:21]1CCOCC1.C[C@H]1C[NH+:10]([H:20])[C@@H](C)CN1 10=20;20,21=21",
"CC[NH2+]CC[Se:21][H:20].c1cnc2nc[n:10]cc2n1>>CC[NH2+]CC[Se-:21].c1cnc2nc[n+:10]([H:20])cc2n1 10=20;20,21=21",
"COc1ccc(N)cc1C[NH2:10].C[N+:21]1([H:20])CCc2cccc3c2C1Cc1ccc(O)c(O)c1-3>>COc1ccc(N)cc1C[NH2+:10][H:20].C[N:21]1CCc2cccc3c2C1Cc1ccc(O)c(O)c1-3 10=20;20,21=21",
"COc1cc2c(cc1OC)[C@]13CC[N:10]4CC5=CCO[C@H]6CC(=O)N2[C@H]1C6[C@@]5(S(=O)(=O)[O-])C[C@@H]34.Cc1cc(C(=O)[O:21][H:20])c[nH]1>>COc1cc2c(cc1OC)[C@]13CC[N+:10]4([H:20])CC5=CCO[C@H]6CC(=O)N2[C@H]1C6[C@@]5(S(=O)(=O)[O-])C[C@@H]34.Cc1cc(C(=O)[O-:21])c[nH]1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc2nc3ccc([O-:10])cc3cc2c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc2nc3ccc([O:10][H:20])cc3cc2c1 10=20;20,21=21",
"Cc1cc[n:10]cn1.O=[N+]([O-])c1ccc2c[n+:21]([H:20])[nH]c2c1>>Cc1cc[n+:10]([H:20])cn1.O=[N+]([O-])c1ccc2c[n:21][nH]c2c1 10=20;20,21=21",
"CC(C)(C)[N+:21]1([H:20])C2CCCC21.Cc1nn(-c2ccccc2)c([O-:10])c1C>>CC(C)(C)[N:21]1C2CCCC21.Cc1nn(-c2ccccc2)c([O:10][H:20])c1C 10=20;20,21=21",
"COC(=O)C[SH+]C(C)[O-:10].Nc1ccc(P(=O)(OCC(F)(F)F)[N:21](c2nccs2)[H:20])cc1>>COC(=O)C[SH+]C(C)[O:10][H:20].Nc1ccc(P(=O)(OCC(F)(F)F)[N-:21]c2nccs2)cc1 10=20;20,21=21",
"Cc1[nH+]c2cccc([NH2:10])c2n1C.Cc1cc(O)c([NH2+:21][H:20])cc1C>>Cc1[nH+]c2cccc([NH2+:10][H:20])c2n1C.Cc1cc(O)c([NH2:21])cc1C 10=20;20,21=21",
"CCCc1ccc(C2CCC[NH+]2C)c[n+:21]1[H:20].CC[N:10](CC)CC>>CCCc1ccc(C2CCC[NH+]2C)c[n:21]1.CC[N+:10](CC)(CC)[H:20] 10=20;20,21=21",
"CCCCCC[N:10](CC(O)CC)CC(O)CC.O[NH+:21](c1ccccc1)[H:20]>>CCCCCC[N+:10](CC(O)CC)(CC(O)CC)[H:20].O[NH:21]c1ccccc1 10=20;20,21=21",
"C#[N+][O-:10].O=C([O-])C(Cc1c[nH]cn1)[NH2+:21][H:20]>>C#[N+][O:10][H:20].O=C([O-])C(Cc1c[nH]cn1)[NH2:21] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2n[n+:21]([H:20])ccc2[nH]1.O=CC(=O)[O-:10]>>COc1cc(S(C)=O)ccc1-c1nc2n[n:21]ccc2[nH]1.O=CC(=O)[O:10][H:20] 10=20;20,21=21",
"N#[C-:10].Nc1ccc(P(=O)(OCC(F)(F)F)[N:21](c2nccs2)[H:20])cc1>>N#[C:10][H:20].Nc1ccc(P(=O)(OCC(F)(F)F)[N-:21]c2nccs2)cc1 10=20;20,21=21",
"COC(=O)CSC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])C=C1>>COC(=O)CSC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)C=C1 10=20;20,21=21",
"CC[NH:10]C(C)C.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC[NH+:10](C(C)C)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CCOP(=O)(C[N:10]1CCOCC1)OCC.C[NH+](C)CC(=O)[O:21][H:20]>>CCOP(=O)(C[N+:10]1([H:20])CCOCC1)OCC.C[NH+](C)CC(=O)[O-:21] 10=20;20,21=21",
"C/C(C#[N+][O-])=N\[O-:10].CC(O)(C(=O)[O:21][H:20])c1ccccc1>>C/C(C#[N+][O-])=N\[O:10][H:20].CC(O)(C(=O)[O-:21])c1ccccc1 10=20;20,21=21",
"C[NH:10]CCCCc1ccccc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C[NH+:10](CCCCc1ccccc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1cc2c(cc1[O-:10])CCCC2>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1cc2c(cc1[O:10][H:20])CCCC2 10=20;20,21=21",
"CCCC[N:10](CC1CO1)CC1CO1.Nc1ccc2[nH]c(CCc3ccccc3)[n+:21]([H:20])c2c1>>CCCC[N+:10](CC1CO1)(CC1CO1)[H:20].Nc1ccc2[nH]c(CCc3ccccc3)[n:21]c2c1 10=20;20,21=21",
"COc1ccc2nccc(C(O)C3CCCC[NH:10]3)c2c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc2nccc(C(O)C3CCCC[NH+:10]3[H:20])c2c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCOC(=O)C1=N[N:21]([H:20])C2=C(C1=O)C(=O)N(C)C(=O)N2C.O=C(/C=C/c1cccc(O)c1)[O-:10]>>CCOC(=O)C1=N[N-:21]C2=C(C1=O)C(=O)N(C)C(=O)N2C.O=C(/C=C/c1cccc(O)c1)[O:10][H:20] 10=20;20,21=21",
"Cc1n[n:10]c2c(c1C)CCC2.O=S(=O)(c1ccc(O)cc1)[N:21](c1ncccn1)[H:20]>>Cc1n[n+:10]([H:20])c2c(c1C)CCC2.O=S(=O)(c1ccc(O)cc1)[N-:21]c1ncccn1 10=20;20,21=21",
"O=C(CC[NH2:10])Oc1ccc([N+](=O)[O-])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C(CC[NH2+:10][H:20])Oc1ccc([N+](=O)[O-])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Fc1cc2c(cc1Cl)[nH]c[n+:21]2[H:20].O=S(=O)([O-])c1c([O-:10])ccc2[nH]ncc12>>Fc1cc2c(cc1Cl)[nH]c[n:21]2.O=S(=O)([O-])c1c([O:10][H:20])ccc2[nH]ncc12 10=20;20,21=21",
"CC(=O)N(c1ccccc1)c1nnc(S(=O)(=O)[NH-:10])s1.Oc1ccc2n[n+:21]([H:20])ccc2c1>>CC(=O)N(c1ccccc1)c1nnc(S(=O)(=O)[NH:10][H:20])s1.Oc1ccc2n[n:21]ccc2c1 10=20;20,21=21",
"NC(=S)[N-:10]c1cccc([N+](=O)[O-])c1.Nc1ccc(S(=O)(=O)[N:21](c2cccc[n+]2[O-])[H:20])cc1>>NC(=S)[N:10](c1cccc([N+](=O)[O-])c1)[H:20].Nc1ccc(S(=O)(=O)[N-:21]c2cccc[n+]2[O-])cc1 10=20;20,21=21",
"CO[C@H]1C[C@@H]1C(=O)[O-:10].O=[N+]([O-])c1ccc(-c2oc(-c3ccccc3)c[n+:21]2[H:20])cc1>>CO[C@H]1C[C@@H]1C(=O)[O:10][H:20].O=[N+]([O-])c1ccc(-c2oc(-c3ccccc3)c[n:21]2)cc1 10=20;20,21=21",
"C[N+:21]1([H:20])[C@H]2CC=C(C(=O)[O-])[C@@H]1CC2.O=C(N[O-:10])c1ccccc1>>C[N:21]1[C@H]2CC=C(C(=O)[O-])[C@@H]1CC2.O=C(N[O:10][H:20])c1ccccc1 10=20;20,21=21",
"CC(C)NNC1CC[N:10](C(C)C)CC1.[NH3+]C1(C(=O)[O:21][H:20])CCCCC1>>CC(C)NNC1CC[N+:10](C(C)C)([H:20])CC1.[NH3+]C1(C(=O)[O-:21])CCCCC1 10=20;20,21=21",
